US08541407B2
To a suspension of (4-(9H-benzo[f]pyrido[2,3-b][1,2,4]triazolo[4,3-d][1,4]diazepin-3-yl)phenyl)methanol (300 mg, 0.88 mmol) in dichloromethane (10 mL) was added thionyl chloride (excess, 1 mL) and the resulting solution was stirred at room temperature for 1 hour. The volatiles were removed in vacuo and the residue was carefully neutralized with a solution of sodium bicarbonate. The mixture was extracted with dichloromethane (3×25 mL) and the combined organics were dried over sodium sulfate, concentrated in vacuo. The 3-(4-(chloromethyl)phenyl)-9H-benzo[f]pyrido[2,3-b][1,2,4]triazolo[4,3-d][1,4]diazepine was obtained as a yellow solid (317 mg, quantitative). M.p.=260-262° C.; 400 MHz 1H NMR (DMSO-d6) δ: 8.79 (s, 1H), 8.20 (dd, J=4.8, 1.6 Hz, 1H), 7.94 (dd, J=8.0, 1.6 Hz, 1H), 7.51 (d, J=8.8 Hz, 2H), 7.45-7.39 (m, 3H), 7.35-7.31 (m, 1H), 7.16-7.10 (m, 2H), 6.90 (dd, J=7.6, 4.8 Hz, 1H), 4.81 (s, 2H); LCMS [M+H]: 360.

reactant | (4-(9H-benzo[f]pyrido[2,3-b][1,2,4]triazolo[4,3-d][1,4]diazepin-3-yl)phenyl)methanol | 0.88 mmol, 300 mg | N=1N=C(N2C3=C(NC4=C(C21)C=CC=C4)N=CC=C3)C3=CC=C(C=C3)CO | C20H15N5O
reactant | thionyl chloride | 1 mL | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 3-(4-(chloromethyl)phenyl)-9H-benzo[f]pyrido[2,3-b][1,2,4]triazolo[4,3-d][1,4]diazepine | ClCC1=CC=C(C=C1)C1=NN=C2N1C1=C(NC3=C2C=CC=C3)N=CC=C1 | C20H14ClN5
